US07482448B2
To a solution of p-toluenesulfonylmethyl isocyanide (3.0 g, 15.36 mmol) and Thiophene-2-carboxaldehyde (1.72 g, 15.36 mmol) in methanol (45 mL) under N2 is added potassium carbonate (2.12 g, 15.36 mmol). The mixture is heated to reflux for 5 hr, then cooled and concentrated in vacuum (cold water bath). The residue is partitioned between ether (100 mL) and water (100 mL). The organic layer is washed with water (100 mL), dried over magnesium sulfate and then concentrated in vacuum. The residue is purified over 35 g silica gel, eluted with ethyl acetate: heptane (1:5) to afford 5-thiophen-2-yl-oxazole (0.852 g, 37%).

reactant | p-toluenesulfonylmethyl isocyanide | 15.36 mmol, 3.0 g | C1(=CC=C(C=C1)S(=O)(=O)C[N+]#[C-])C | C9H9NO2S
reactant | Thiophene-2-carboxaldehyde | 15.36 mmol, 1.72 g | S1C(=CC=C1)C=O | C5H4OS
reactant | potassium carbonate | 15.36 mmol, 2.12 g | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 45 mL | CO | CH4O
product | 5-thiophen-2-yl-oxazole | 0.852 g, 37% | S1C(=CC=C1)C1=CN=CO1 | C7H5NOS
